US09163011B2
a) 3-Chloro-5-(2,2-difluoro-ethoxy)-pyridine-2-carbonitrile
To a solution of 3-chloro-5-hydroxy-pyridine-2-carbonitrile [1262860-70-7] (0.200 g, 1.23 mmol) in THF (15 ml) was added at 0° C. 2,2-difluoro-ethanol (0.123 g, 1.48 mmol) and triphenylphosphine (0.484 g, 1.84 mmol). After stirring for 10 min at 0° C. DIAD (0.373 g, 1.84 mmol) was added and the reaction mixture was stirred for 2 h at 0° C. followed by 16 h at 25° C. The reaction mixture was concentrated and the title compound was obtained after CombiFlash chromatography on silica gel (hexane/EtOAc 20:1 to 1:1) as a colorless oil.

reactant | 3-chloro-5-hydroxy-pyridine-2-carbonitrile | 1.23 mmol, 0.200 g | ClC=1C(=NC=C(C1)O)C#N | C6H3ClN2O
reactant | 2,2-difluoro-ethanol | 1.48 mmol, 0.123 g | FC(CO)F | C2H4F2O
reactant | triphenylphosphine | 1.84 mmol, 0.484 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.84 mmol, 0.373 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-Chloro-5-(2,2-difluoro-ethoxy)-pyridine-2-carbonitrile | ClC=1C(=NC=C(C1)OCC(F)F)C#N | C8H5ClF2N2O
